US05578620
2-Chloroacetamido-1-(3-chlorophenoxymethyl)ethanol
A solution of 0.24 ml of triethylamine in 1 ml of anhydrous tetrahydrofuran was added to a solution of 300 mg of 3-(3-chlorophenoxy)-2-hydroxypropylamine in 4 ml of anhydrous tetrahydrofuran, whilst ice-cooling, and then 1 ml of a solution of 192 mg of chloroacetyl chloride in anhydrous tetrahydrofuran was added dropwise to the resulting mixture. The reaction mixture was then stirred at room temperature for 3 hours. At the end of this time, the solvent was removed from the reaction mixture by evaporation under reduced pressure, water was added to the residue, and the mixture was extracted with ethyl acetate. The extract was washed with an aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. The ethyl acetate was removed from the extract by evaporation under reduced pressure, and the resulting residue was purified by silica gel column chromatography, using a 3:2 by volume mixture of ethyl acetate and hexane as the eluent, to give 310 mg of the title compound, melting at 74° C. to 77° C.

reactant | triethylamine | 0.24 ml | C(C)N(CC)CC | C6H15N
reactant | 3-(3-chlorophenoxy)-2-hydroxypropylamine | 300 mg | ClC=1C=C(OCC(CN)O)C=CC1 | C9H12ClNO2
reactant | chloroacetyl chloride | 192 mg | ClCC(=O)Cl | C2H2Cl2O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 2-Chloroacetamido-1-(3-chlorophenoxymethyl)ethanol | 310 mg | ClCC(=O)NC(C)(O)COC1=CC(=CC=C1)Cl | C11H13Cl2NO3
